US07253286B2
6,7-Dimethoxy-1H-quinolin-4-thione
After suspending the 6,7-dimethoxy-1H-quinolin-4-one (10.3 g, 50.0 mmol) described in WO9717329, phosphorus pentasulfide (26.7 g, 60.0 mmol) and sodium bicarbonate (26.7 g, 318 mmol) in diglyme (diethyleneglycol dimethyl ether) (100 ml), the suspension was heated and stirred at 80° C. for 2 hours. The reaction solution was returned to room temperature and poured into ice water (1000 ml), and the precipitated crystals were filtered out, washed with water and blow-dried to obtain the title compound (8.19 g, 37.0 mmol, 74%) as yellow crystals.

reactant | 6,7-dimethoxy-1H-quinolin-4-one | 50.0 mmol, 10.3 g | COC=1C=C2C(C=CNC2=CC1OC)=O | C11H11NO3
reactant | phosphorus pentasulfide | 60.0 mmol, 26.7 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium bicarbonate | 318 mmol, 26.7 g | C([O-])(O)=O.[Na+]
solvent | diglyme | 100 ml | COCCOCCOC | C6H14O3
product | 6,7-Dimethoxy-1H-quinolin-4-thione | 37.0 mmol, 8.19 g, 74% | COC=1C=C2C(C=CNC2=CC1OC)=S | C11H11NO2S
